US07704995B2
Methyl 2-amino-5-bromopyridine-3-carboxylate:
A slurry of 2-amino-5-bromopyridine-3-carboxylic acid (7 g, 32.2 mmol) in methanol (150 mL) and H2SO4 (7 mmol) was heated to reflux for 48 h. The reaction mixture was concentrated to ca. 40 mL. Water (100 mmol) was added to the residual oil, and the mixture neutralized with sodium carbonate. Ethyl acetate (400 mL) was added and the organic layer was washed with saturated aqueous sodium chloride then dried (Na2SO4) and concentrated to give the title compound (5.5 g, 73.9% yield).

reactant | 2-amino-5-bromopyridine-3-carboxylic acid | 32.2 mmol, 7 g | NC1=NC=C(C=C1C(=O)O)Br | C6H5BrN2O2
reactant | H2SO4 | 7 mmol | OS(=O)(=O)O | H2O4S
reactant | Water | 100 mmol | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 150 mL | CO | CH4O
solvent | Ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 2-amino-5-bromopyridine-3-carboxylate | 5.5 g, 73.9% yield | NC1=NC=C(C=C1C(=O)OC)Br | C7H7BrN2O2
